US07354939B2
2-((S)-1-Hydroxymethylpropylamino)-5-methyl-4-nitro-pyridine N-oxide:
2-Chloro-5-methyl-4-nitropyridine N-oxide (200 mg, 1.06 mmol, 1.0 equivalent) was dissolved in ethanol (1.5 mL). (S)-2-Aminobutanol (284 mg, 3.2 mmol, 3.0 equivalent) was then added and the resulting mixture was refluxed for 16 hours. The crude solution was then purified by reversed phase HPLC (acetonitrile/water/TFA) to afford the title compound as a brown solid (146 mg, 0.61 mmol, Rt(min) 3.787; FIA ES+ 241.8, ES− not observed).

reactant | 2-Chloro-5-methyl-4-nitropyridine N-oxide | 1.06 mmol, 200 mg, 1.0 equivalent | ClC1=[N+](C=C(C(=C1)[N+](=O)[O-])C)[O-] | C6H5ClN2O3
reactant | (S)-2-Aminobutanol | 3.2 mmol, 284 mg, 3.0 equivalent | N[C@H](CO)CC | C4H11NO
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | 2-((S)-1-Hydroxymethylpropylamino)-5-methyl-4-nitro-pyridine N-oxide | 0.61 mmol, 146 mg | OC[C@H](CC)NC1=[N+](C=C(C(=C1)[N+](=O)[O-])C)[O-] | C10H15N3O4
